US05254578
2,2-Dimethyl-6-pentafluoroethylthio-2H-1-benzopyran
A solution of 1.463 g of 6-mercapto-2,2-dimethyl-2H-1-benzopyran (prepared as described in Preparation 6) in 15 ml of dimethylformamide was added dropwise, whilst ice-cooling, to a suspension of 0.366 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 15 ml of dimethylformamide under an atmosphere of nitrogen. After the reaction mixture had been stirred for 15 minutes, 5.53 g of perfluoroethyl iodide were added to it. The reaction mixture was then stirred whilst ice-cooling for 1 hour and then at room temperature for 2 hours. At the end of this time, the reaction mixture was poured into 150 ml of dilute aqueous hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, with an aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 20:1 by volume mixture of cyclohexane and ethyl acetate as the eluent, to afford 1.935 g of the title compound as an oil.

reactant | 6-mercapto-2,2-dimethyl-2H-1-benzopyran | 1.463 g | SC=1C=CC2=C(C=CC(O2)(C)C)C1 | C11H12OS
reactant | sodium hydride | 0.366 g | [H-].[Na+]
reactant | perfluoroethyl iodide | 5.53 g | FC(C(F)(F)F)(F)I | C2F5I
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2,2-Dimethyl-6-pentafluoroethylthio-2H-1-benzopyran | 1.935 g | CC1(OC2=C(C=C1)C=C(C=C2)SC(C(F)(F)F)(F)F)C | C13H11F5OS
